Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Sulfa (Sulfonamide 
Antibiotics) / erythromycin base
 
Attending: ___
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
Mr. ___ is a ___ year old man
with a history  of low back pain, NIDDM2, and asthma who
underwent routine screening colonoscopy yesterday and presents
with BRPBR concerning
for post polypectomy bleed.  

He reports he was in his usual state of health and finished his
colonoscopy around 4 on ___. He then had his first BM at 6pm on
___ and noted a stream of water he estimates to be about a cup,
with some clots.  He had several episodes of this overnight of
bright and dark red blood and was referred into the ED on ___.  


On presentation at 9:42 his HR, BP and H&H were notable for a
mild tachycardia. He notably denied chest pain, dyspnea,
abdominal pain or pre syncopal feeling. He was evaluated by GI
and underwent repeat colonoscopy with GI on ___ which
demonstrated large amount of blood throughout colon, 
diverticula,
and an adherent clot in the ascending colon. When this was
removed it showed the polypectomy site with a visible vessel.
This was clipped with hemostasis. 

In the ED, initial vitals:  T 98 HR95 BP118/84 RR 16 98% RA
- Labs notable for:  
CBC: WBC 5.3 Hgb 13.9 Plt 152
INR 1.1
Chemistry: Na 144, K 4.2 BUN 10 Sr Cr 0.9
Lactate 1.3
- Imaging notable for:  colonoscopy as above
- Pt given:  1L NS
- Vitals prior to transfer:  T98 HR 72 BP 129/64 RR 12 97%

On the floor, Mr. ___ has no acute concerns. He did
previously have abdominal pain which improved with passing gas.
His last bloody bowel movement was the am of ___.

 
Past Medical History:
Asthma
colonic polyp
NIDDM2
low back pain
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: ___ 0234 Temp: 98.0 PO BP: 157/85 L Sitting HR: 66 RR:
18 O2 sat: 97% O2 delivery: Ra 
GENERAL: NAD. Comfortable, knowledgeable 
Eyes: Anicteric without conjunctival injection  
ENT: MMM. No oral lesions  
NECK: supple.  
___: RRR, no m/r/g  
LUNGS: CTAB, no w/r/c  
ABDOMEN: soft, nontender, nondistended, normoactive bowel 
sounds,
no rebound or guarding 
SKIN: Warm. Dry.
EXT: well perfused, large lower leg circumference but no edema 
NEURO: Oriented x3, Fluent speech  

DISCHARGE PHYSICAL EXAM
T 97.9 BP 130 / 78 HR 82 RR 16 O2 SAT: 95 ra 
GEN: Sitting up in bed eating breakfast, NAD
HEENT: MMM
CV: RRR, no m/r/g
PULM: CTAB, no wheezes/rales/rhonchi
ABD: Soft, nontender, nondistended, no peritoneal signs
EXT: Left lower extremity > R, per patient has been this way 
since a knee surgery. No edema.

 
Pertinent Results:
ADMISSION LABS
___ 10:15AM BLOOD WBC-5.3 RBC-4.21* Hgb-13.9 Hct-40.7 
MCV-97 MCH-33.0* MCHC-34.2 RDW-13.5 RDWSD-48.3* Plt ___
___ 10:15AM BLOOD Neuts-60.5 ___ Monos-8.8 Eos-2.5 
Baso-0.4 Im ___ AbsNeut-3.18 AbsLymp-1.45 AbsMono-0.46 
AbsEos-0.13 AbsBaso-0.02
___ 10:15AM BLOOD ___ PTT-29.5 ___
___ 10:15AM BLOOD Glucose-116* UreaN-10 Creat-0.9 Na-144 
K-4.2 Cl-104 HCO3-26 AnGap-14
___ 11:02AM BLOOD Lactate-1.3

OTHER RESULTS
Colonoscopy report ___
Multiple non-bleeding diverticula were seen in the sigmoid and 
descending colon. Fresh blood was noted thoughout the colon. In 
the ascending colon, a large blood clot was noted above a site 
of previous polypectomy. This blood clot was removed to reveal a 
vessel with active bleeding. Two endoclips were successfully 
applied to the ascending colon polypectomy site for the purpose 
of hemostasis.

DISCHARGE LABS
___ 05:41AM BLOOD WBC-5.1 RBC-4.07* Hgb-13.5* Hct-40.4 
MCV-99* MCH-33.2* MCHC-33.4 RDW-13.7 RDWSD-49.4* Plt ___
___ 05:41AM BLOOD Glucose-99 UreaN-10 Creat-1.0 Na-145 
K-3.9 Cl-105 HCO3-25 AnGap-15
___ 05:41AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of low back 
pain, NIDDM2, and asthma who underwent routine screening 
colonoscopy yesterday and presents with BRPBR concerning for 
post polypectomy bleed. 

ACUTE/ACTIVE PROBLEMS
===================== 
# Bright Red Blood Per Rectum, Post Polypectomy Bleed
Patient underwent polypectomy ___ and presented with bloody 
bowel movements consistent with post-polypectomy bleed. He had 
no dizziness or lightheadedness, no syncope or pre-syncope. 
Repeat colonoscopy ___ with evidence of adherent clot in 
ascending colon with a visible vessel present that was clipped. 
Reassuringly hemoglobin relatively stable through out ED course. 
Last bloody bowel movement was in the AM on ___. Patient was 
monitored inpatient overnight after the second procedure and 
remained hemodynamically stable. Hemoglobin remained stable as 
well, was 13.5 at time of discharge. Patient counseled to 
anticipate some dark stool as known blood burden is passed.

CHRONIC/STABLE PROBLEMS
=======================
# Type 2DM
Held PO anti-hyperglycemics and administered SSI while in house. 
Restarted Metformin and Trulicity on discharge

# Hypothyroidism 
Continued Levothyroxine 175mcg daily

# Asthma 
Ordered for albuterol inhaler and duonebs while inpatient. Held 
home QVAR as it was non formulary, patient to restart after 
discharge.

TRANSITIONAL ISSUES
===================
[] Patient to see PCP within two weeks, if he has had recurrent 
bleeding can consider checking H/H.
[] Patient should hear from his gastrointestinal doctor 
regarding the results of his polyp biopsy. Please ensure this is 
followed up as appropriate. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
2. dulaglutide 1.5 mg/0.5 mL subcutaneous weekly 
3. alfuzosin 10 mg oral daily 
4. Qvar RediHaler (beclomethasone dipropionate) 40 mcg/actuation 
inhalation BID 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
6. LORazepam 0.5-1 mg PO QHS:PRN insomnia 
7. Levothyroxine Sodium 175 mcg PO DAILY 
8. turmeric 500 mg oral daily 
9. Ketoconazole 2%  1 Appl TP BID 
10. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
2.  alfuzosin 10 mg oral daily  
3.  dulaglutide 1.5 mg/0.5 mL subcutaneous weekly  
4.  Ketoconazole 2%  1 Appl TP BID  
5.  Levothyroxine Sodium 175 mcg PO DAILY  
6.  Loratadine 10 mg PO DAILY  
7.  LORazepam 0.5-1 mg PO QHS:PRN insomnia  
8.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
9.  Qvar RediHaler (beclomethasone dipropionate) 40 
mcg/actuation inhalation BID  
10.  turmeric 500 mg oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
POST-POLYPECTOMY LOWER GASTROINTESTINAL BLEED

SECONDARY DIAGNOSES
===================
TYPE TWO DIABETES MELLITUS
HYPOTHYROIDISM
ASTHMA
LOWER BACK PAIN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital because you were having bleeding 
after your colonoscopy procedure.

What did you receive in the hospital?
- You had a second colonoscopy which found an area of bleeding 
in your colon. You had clips placed in your colon to stop the 
bleeding.

What should you do once you leave the hospital?
- You may notice dark stools for the next couple of days while 
the old blood clears from your colon. Please call your doctor if 
you notice any bright red blood in your bowel movements or if 
your stools do not return to their normal color.
- Please take all of your medications as prescribed and 
follow-up with your primary care doctor as scheduled.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___